US04024276
4.40 g (0.032 mole) of anhydrous potassium carbonate and then 0.16 g of powdered copper were added to a solution of 3.60 g (0.016 mole) of 4-methylthio-2-(n-pentyloxy)-phenol and 4.37 g (0.016 mole) of dimethyl 4-bromo-isophthalate in 40 ml of nitrobenzene and the mixture was heated with stirring at 120° C under nitrogen for 3 hours. After cooling the mixture to 100° C, a solution of 1.92 g of sodium hydroxide pellets in 50 ml of a 1-1 ethanol-water mixture was added thereto and the mixture was refluxed for one hour. The mixture was cooled and 100 ml of water were added. The mixture was extracted with 100 ml of ether and the aqueous layer was washed twice with 50 ml of ether and was then acidified with 10% hydrochloric acid. The mixture was extracted with ether and the ether extract was washed with water, dried over magnesium sulfate and evaporated to dryness under reduced pressure to obtain an off-white solid residue. The residue was triturated wth petroleum ether to obtain 5.3 g of 4-[4'-methylthio-2'-(n-pentyloxy)-phenoxy]-isophthalic acid. The IR spectrum showed a bonded hydroxy at 3500 to 2200cm-1 and carboxyl at 1700cm-1.

reactant | potassium carbonate | 0.032 mole, 4.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methylthio-2-(n-pentyloxy)-phenol | 0.016 mole, 3.60 g | CSC1=CC(=C(C=C1)O)OCCCCC | C12H18O2S
reactant | dimethyl 4-bromo-isophthalate | 0.016 mole, 4.37 g | BrC1=C(C=C(C(=O)OC)C=C1)C(=O)OC | C10H9BrO4
reactant | sodium hydroxide | 1.92 g | [OH-].[Na+]
solvent | nitrobenzene | 40 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | copper | 0.16 g | [Cu] | Cu
solvent | water | 100 ml | O | H2O
solvent | ethanol water | C(C)O.O
product | 4-[4'-methylthio-2'-(n-pentyloxy)-phenoxy]-isophthalic acid | 5.3 g | CSC1=CC(=C(OC2=C(C=C(C(=O)O)C=C2)C(=O)O)C=C1)OCCCCC | C20H22O6S
